US08258306B2
To a solution of 4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidine (0.4 g, 1.25 mmol) in MeCN (15 mL) was added triethyl amine (0.45 mL, 3.2 mmol) at rt. After stirring at rt for 10 min, it was cooled to 0° C. and ethyl bromoacetate (0.27 mL, 1.62 mmol) was added dropwise. After stirring at rt for 16 h, the solvent was removed under vacuum and the residue was diluted with water, extracted with ethyl acetate, the combined organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to afforded the crude product. Column chromatography (SiO2, 5-10% ethyl acetate in hexane) afforded ethyl 2-(4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetate (0.25 g, 52% yield) as a pale yellow solid. MS (ESI, pos. ion) m/z: 406 (M+1).

reactant | 4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidine | 1.25 mmol, 0.4 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C19H20F3N
reactant | triethyl amine | 3.2 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 1.62 mmol, 0.27 mL | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeCN | 15 mL | CC#N | C2H3N
solvent | hexane | CCCCCC | C6H14
product | ethyl 2-(4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetate | 0.25 g, 52% yield | C1(=CC=CC=C1)C(C1CCN(CC1)CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C23H26F3NO2
